US07772234B2
Step J: Preparation of 4-amino-7-(4-bromo-2-fluorophenylamino)-8-fluoro-cinnoline-6-carboxylic acid methyl ester:
A solution of 7-(4-bromo-2-fluorophenylamino)-4-chloro-8-fluoro-cinnoline-6-carboxylic acid methyl ester (1.00 equiv.) in saturated NH3 in MeOH is refluxed for 16 hours. Additional saturated NH3 in MeOH is added as the reaction progresses if necessary. The reaction mixture is cooled to room temperature and diluted with EtOAc. The organic layer is washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude product that is purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 7-(4-bromo-2-fluorophenylamino)-4-chloro-8-fluoro-cinnoline-6-carboxylic acid methyl ester | 1.00 equiv. | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)Cl | C16H9BrClF2N3O2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-amino-7-(4-bromo-2-fluorophenylamino)-8-fluoro-cinnoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)N | C16H11BrF2N4O2
